US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-(2-fluoro-6,7,8,9-tetrahydro-9-hydroxy-5H-benzo[α]cyclohepten-7-yl)-1-piperazinecarboxamide
To a stirred solution of N-[9-(acetyloxy)-2-fluoro-6,7,8,9-tetrahydro-5H-benzo[α]cyclohepten-7-yl]-4-(7-chloro-4-quinolinyl)-1-piperazinecarboxamide (30.0 mg, 0.0588 mmol) in THF:H2O (3:1, 2 mL) was added LiOH (8 mg). The reaction mixture was stirred at rt for 3 h, then THF was evaporated in vacuo. The reaction mixture was diluted with AcOEt (100 mL), washed with brine, and dried. Concentration followed by flash chromatography afforded the title product. LC-MS: 469 (M++1). δ 1H NMR (CDCl3) δ 8.70 (d, 1H), 8.05 (s, 1H), 7.95 (d, 1H), 7.45 (d, 1H), 7.05 (m, 2H), 6.85 (m, 2H), 4.95 (m, 1H), 4.35 (m, 1H), 3.65 (m, 4H), 3.20 (m, 4H), 3.15 (m, 1H), 2.60 (m, 1H), 2.20 (m, 2H), 1.8 (m, 3H).

reactant | N-[9-(acetyloxy)-2-fluoro-6,7,8,9-tetrahydro-5H-benzo[α]cyclohepten-7-yl]-4-(7-chloro-4-quinolinyl)-1-piperazinecarboxamide | 0.0588 mmol, 30.0 mg | C(C)(=O)OC1CC(CCC2=C1C=C(C=C2)F)NC(=O)N2CCN(CC2)C2=CC=NC1=CC(=CC=C21)Cl | C27H28ClFN4O3
reactant | LiOH | 8 mg | [Li+].[OH-]
solvent | THF H2O | 2 mL | C1CCOC1.O
product | 4-(7-Chloro-4-quinolinyl)-N-(2-fluoro-6,7,8,9-tetrahydro-9-hydroxy-5H-benzo[α]cyclohepten-7-yl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CCC2=C(C(C1)O)C=C(C=C2)F | C25H26ClFN4O2
